* C:\Users\Euge\Documents\UTN\Ayudantías\tc2\LTSpice\TPL1\UAF_Example.asc
XU1 LP_Out N001 N001 0 0 NC_01 BP_Out N002 V- V+ 0 NC_02 HP_Out N004 UAF42
V1 V+ 0 9
V2 0 V- 9
V3 N003 0 AC 1
R1 N001 N003 50K
R2 HP_Out N002 10K
R3 BP_Out N004 10K
R4 0 N001 50K
.ac dec 100 10 1Meg
.lib C:\Users\Euge\Documents\UTN\Ayudantías\tc2\LTSpice\TPL1\UAF42 PSpice\UAF42.LIB
.backanno
.end
